US07625932B2
Preparation of Trifluoro-methanesulfonic acid 4-(3-cyano-1-methyl-1H-pyrazol-4-yl)-phenyl ester
Add dry pyridine (14.7 mmol) to a solution of 4-(4-hydroxy-phenyl)-1-methyl-1H-pyrazole-3-carbonitrile (1.0 g, 5.0 mmol, prepared in example Pz-6) in 30 mL of methylene chloride and cool to −70° C. under nitrogen. Add trifluoro-methanesulfonic anhydride (6.2 mmol) dropwise and remove the cooling bath and allow the reaction to warm to room temperature. Ninety minutes later pour the mixture into 50 mL cold 1N HCl. Shake and separate the layers; wash the organics with ice-water (1×20 mL) and saturated aqueous NaHCO3 (1×20 mL) and dry over anhydrous Na2SO4. Filter and evaporate to provide the title compound (1.6 g, 96% yield) which is used without further purification.

reactant | pyridine | 14.7 mmol | N1=CC=CC=C1 | C5H5N
reactant | 4-(4-hydroxy-phenyl)-1-methyl-1H-pyrazole-3-carbonitrile | 5.0 mmol, 1.0 g | OC1=CC=C(C=C1)C=1C(=NN(C1)C)C#N | C11H9N3O
reactant | trifluoro-methanesulfonic anhydride | 6.2 mmol | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | HCl | 1N | Cl | ClH
solvent | methylene chloride | 30 mL | C(Cl)Cl | CH2Cl2
product | Trifluoro-methanesulfonic acid 4-(3-cyano-1-methyl-1H-pyrazol-4-yl)-phenyl ester | 1.6 g, 96% yield | C(#N)C1=NN(C=C1C1=CC=C(C=C1)OS(=O)(=O)C(F)(F)F)C | C12H8F3N3O3S
